US05849911
25b) 4-[2-(1-Methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-benzaldehyde
Under a nitrogen atmosphere, a solution of 6.9 g (58 mmol) of 2-phenyl-propene (Fluka, Buchs, Switzerland) and 22 ml of toluene is added dropwise to 10 g (57 mmol) of 4-(tetrazol-5-yl)-benzaldehyde and 1 g (5.7 mmol) of methanesulfonic acid in 44 ml of boiling toluene and the mixture is then stirred under reflux conditions for 1 hour. The cooled reaction mixture is washed 2× with sat. NaHCO3 solution, water and brine, dried (Na2SO4) and concentrated by evaporation to form the title compound: 1H-NMR (DMSO-d6) δ 10.09 (s, HCO), 8.29 and 8.08 (2d, J=8, each 2H), 7.33 and 7.17 (2m, 5H), 2.17 (s, 6H).

reactant | 2-phenyl-propene | 58 mmol, 6.9 g | C1(=CC=CC=C1)C(=C)C | C9H10
reactant | 4-(tetrazol-5-yl)-benzaldehyde | 57 mmol, 10 g | N1N=NN=C1C1=CC=C(C=O)C=C1 | C8H6N4O
reactant | methanesulfonic acid | 5.7 mmol, 1 g | CS(=O)(=O)O | CH4O3S
solvent | toluene | 44 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 22 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(1-Methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-benzaldehyde | CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=CC=C(C=O)C=C1 | C17H16N4O
